### PR TITLE
[Merged by Bors] - feat: Embed a space into probability measures on it.

### PR DESCRIPTION
**Pull request by kkytola**
Assuming a topological space `X` is completely regular and T0, it can be embedded into `ProbabilityMeasure X`. This shows in particular that for the Lévy-Prokhorov metrizability #11549 of `ProbabilityMeasure X`, certain assumptions cannot be relaxed. For example we have:

```lean
import Mathlib.MeasureTheory.Measure.DiracProba

variable {Ω : Type*} [MeasurableSpace Ω] [TopologicalSpace Ω] [OpensMeasurableSpace Ω] [T0Space Ω] [CompletelyRegularSpace Ω]

open TopologicalSpace

example :
    ¬ MetrizableSpace Ω → ¬ MetrizableSpace (ProbabilityMeasure Ω) := by
  intro badSpace goodProba
  exact badSpace embedding_diracProba.metrizableSpace

example :
    ¬ PseudoMetrizableSpace Ω → ¬ PseudoMetrizableSpace (ProbabilityMeasure Ω) := by
  intro badSpace goodProba
  exact badSpace embedding_diracProba.pseudoMetrizableSpace

example :
    ¬ FirstCountableTopology Ω → ¬ FirstCountableTopology (ProbabilityMeasure Ω) := by
  intro badSpace goodProba
  exact badSpace embedding_diracProba.firstCountableTopology
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Dirac.lean [hunk 1]
```diff
@@ -5,6 +5,7 @@ Authors: Johannes Hölzl
 -/
 import Mathlib.MeasureTheory.Measure.Typeclasses
 import Mathlib.MeasureTheory.Measure.MutuallySingular
+import Mathlib.MeasureTheory.MeasurableSpace.CountablyGenerated
```
Comment (kkytola) [inline Mathlib/MeasureTheory/Measure/Dirac.lean:8]: This is an added import, to be able to state `dirac_ne_dirac` in the natural generality, i.e., assuming `MeasurableSpace.SeparatesPoints`.

If the import creep is unacceptable, I see the options:
 * move the general `dirac_ne_dirac` to a different (later) file than `Dirac.lean` (one option is the new `DiracProba.lean`), and possibly state a version here with suboptimal hypotheses that do not require new imports, such as `MeasurableSingletonClass`;
 * move `MeasurableSpace.SeparatesPoints` out of `CountablyGenerated.lean` (in fact its current placement does not appear very natural to me, would it be better to have a separate "typeclasses for measurable spaces" file with `MeasurableSingletonClass`, `SeparatesPoints`, etc?).

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/Dirac.lean:8]: I think this added import is fine: you are not adding much, and indeed you want to be able to use SeparatesPoints because that's the right generality.

I also agree that SeparatesPoints could be moved to another file.

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean [hunk 2]
```diff
@@ -536,6 +536,18 @@ theorem measure_closure_of_null_frontier {μ : Measure α'} {s : Set α'} (h : 
   measure_congr (closure_ae_eq_of_null_frontier h)
 #align measure_closure_of_null_frontier measure_closure_of_null_frontier
 
+instance separatesPoints_of_opensMeasurableSpace_of_t0Space [T0Space α] :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Basic.lean:539]: Our naming convention wants that name instead:
```suggestion
instance separatesPointsOfOpensMeasurableSpaceOfT0Space [T0Space α] :
```
I think it's quite unreadable and yours would be better, but that discussion should happen elsewhere and for now we should follow the naming convention.

File: Mathlib/MeasureTheory/Measure/Dirac.lean [hunk 3]
```diff
@@ -166,3 +167,48 @@ theorem restrict_dirac [MeasurableSingletonClass α] [Decidable (a ∈ s)] :
...
+  refine ⟨fun h A A_mble ↦ by simp only [h A A_mble, imp_self], fun h A A_mble ↦ ?_⟩
+  by_cases x_in_A : x ∈ A
+  · simp only [x_in_A, h A A_mble x_in_A]
+  · simpa only [x_in_A, false_iff] using h Aᶜ (MeasurableSet.compl_iff.mpr A_mble) x_in_A
+
+open MeasurableSpace in
+/-- Dirac delta measures at two different points are different, assuming the measurable space
+separates points. -/
+lemma dirac_ne_dirac [SeparatesPoints α] {x y : α} (x_ne_y : x ≠ y) :
+    Measure.dirac x ≠ Measure.dirac y := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Dirac.lean:210]: Can you add an `iff` version of this one?

File: Mathlib/MeasureTheory/Measure/DiracProba.lean [hunk 4]
```diff
@@ -0,0 +1,196 @@
...
+probability measure, Dirac delta, embedding
+-/
+
+open Topology Metric Filter Set ENNReal NNReal BoundedContinuousFunction
+
+open scoped Topology ENNReal NNReal BoundedContinuousFunction
+
+lemma CompletelyRegularSpace.exists_BCNN {X : Type*} [TopologicalSpace X] [CompletelyRegularSpace X]
+    {K : Set X} (K_closed : IsClosed K) {x : X} (x_notin_K : x ∉ K) :
+    ∃ (f : X →ᵇ ℝ≥0), f x = 1 ∧ (∀ y ∈ K, f y = 0) := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/DiracProba.lean:30]: This looks generally useful and not specific to Dirac measures. Is there an earlier file about bounded continuous functions where it would fit?

File: Mathlib/MeasureTheory/Measure/DiracProba.lean [hunk 5]
```diff
@@ -0,0 +1,196 @@
...
+section embed_to_probabilityMeasure
+
+variable {X : Type*} [MeasurableSpace X]
+
+/-- The Dirac delta mass at a point `x : X` as a `ProbabilityMeasure`. -/
+noncomputable def diracProba (x : X) : ProbabilityMeasure X :=
+  ⟨Measure.dirac x, Measure.dirac.isProbabilityMeasure⟩
+
+/-- The assignment `x ↦ diracProba x` is injective if all singletons are measurable. -/
+lemma injective_diracProba {X : Type*} [MeasurableSpace X] [MeasurableSingletonClass X] :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/DiracProba.lean:63]: You could generalize this one to use a SeparatesPoints hypothesis.

File: Mathlib/MeasureTheory/Measure/Dirac.lean (hunk 3 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/Dirac.lean:210]: A lemma that gives `x = y` from `dirac x = dirac y` could also be useful. That's what you need in `injective_diracProba` for example.

File: Mathlib/MeasureTheory/Measure/DiracProba.lean (hunk 4 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/DiracProba.lean:30]: I agree that would be desirable. But I have not found a great place. For example:
 * `Mathlib.Topology.UrysohnsBounded` does not `import Mathlib.Topology.CompletelyRegular`, so placing this there would cause a bit of import creep and this is not strictly Urysohn's lemma (although somewhat similar)
 * `Mathlib.Topology.CompletelyRegular` does not `import Mathlib.Topology.ContinuousFunction.Bounded`, so placing this there would cause a bit of import creep. This lemma is, however, quite literally a rephrasing of the property `CompletelyRegularSpace`.

Adding one of the above imports would be a possible approach, if some import creep is acceptable. Creating yet another file would be another approach, but for a single lemma this seems questionable.

I feel like I have also before scattered some results about bounded continuous functions in different files because of similar import-hierarchy problems. I have earlier even created the files:
 * `Mathlib.MeasureTheory.Integral.BoundedContinuousFunction` for integration results for bounded continuous functions.
 * `Mathlib.MeasureTheory.HasOuterApproxClosed` which contains an essentially topological property which is however meant to be used in measure theory context.

If there was a more appropriate file in the topology folder (the above ones are in the measure theory folder), a few lemmas from those files could almost certainly also be moved there. 

For the moment, however, I don't see great solutions. Perhaps a subsequent PR could address the organization of such lemmas. (Maybe also the `section NonnegativePart` that I added in `Mathlib.Totology.ContinuousFunction.Bounded` could be split off from the main bounded continuous function file.) Unfortunately the necessary imports in each of these case are slightly different, so I still don't quite know what would be the best organization.

File: Mathlib/MeasureTheory/Measure/DiracProba.lean [hunk 6]
```diff
@@ -0,0 +1,196 @@
...
+lemma continuous_diracProbaEquivSymm [T0Space X] [CompletelyRegularSpace X] :
+    Continuous (diracProbaEquiv (X := X)).symm := by
+  apply continuous_iff_continuousAt.mpr
+  intro μ
+  apply continuousAt_of_tendsto_nhds (y := diracProbaInverse μ)
+  exact (tendsto_diracProbaEquivSymm_iff_tendsto _).mpr fun _ mem_nhd ↦ mem_nhd
+
+/-- In a completely regular T0 topological space `X`, `diracProbaEquiv` is a homeomorphism to
+its image in `ProbabilityMeasure X`. -/
+noncomputable def homeomorph_diracProba [T0Space X] [CompletelyRegularSpace X]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/DiracProba.lean:185]: The name of a def should not contain `_` but should be camelCase instead. I see in the docs that many homeomorphs are called with a name in the namespace, like `Homeomorph.diracProba`. Other options would be `homeomorphDiracProba` or `diracProbaHomeomorph`.

**Review by RemyDegenne — APPROVED** [review]
bors d+
Thanks, that looks good. Sorry for the long delay between reviews.

File: Mathlib/MeasureTheory/Measure/DiracProba.lean (hunk 6 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/DiracProba.lean:185]: Thanks! The last option you suggested seems the most natural to me, so I will go with it now. (The `Homeomorph` namespace does not seem to gain any dot notation in this case, and seems more suitable for general results rather than the very specific homeomorphism here.)

File: Mathlib/MeasureTheory/Measure/DiracProba.lean (hunk 4 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/DiracProba.lean:30]: I'll merge master so as to get #12559 : having the subtraction of `NNReal`-valued functions makes this lemma significantly shorter (it addresses the TODO I had in the proof).

**Comment by kkytola** [comment]
> bors d+ Thanks, that looks good. Sorry for the long delay between reviews.

Thanks for the reviews! No worries about the time, I understand everyone is busy and reviewing takes time and energy!

I now get a lint failure because of the `BorelSpace.Basic` file. I have proposed a split in #12470. Should that be addressed first?
